US07687490B2
4-Cyanomethyl-5-((Z)-2-tritylthioethen-1-yl)thiazole
A suspension of 350 mg of 4-chloromethyl-5-((Z)-2-tritylthioethen-1-yl)thiazole, prepared in step a) in Example 2, in 7 ml of DMF was cooled in ice, and 94 mg of sodium cyanide was added to the cooled suspension under an argon atmosphere. The mixture was stirred at room temperature for 2.5 hr, and brine was then added to the reaction solution. The mixture was extracted twice with ethyl acetate, and the organic layers were combined, followed by washing with brine. The washed organic layer was dried over anhydrous magnesium sulfate, was filtered, and was concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1) to give 132 mg of the title compound.

reactant | 4-chloromethyl-5-((Z)-2-tritylthioethen-1-yl)thiazole | 350 mg | ClCC=1N=CSC1\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H20ClNS2
reactant | sodium cyanide | 94 mg | [C-]#N.[Na+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 4-Cyanomethyl-5-((Z)-2-tritylthioethen-1-yl)thiazole | 132 mg | C(#N)CC=1N=CSC1\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H20N2S2
